Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R groin pain and purulence
 
Major Surgical or Invasive Procedure:
R groin drainage 
 
History of Present Illness:
Ms. ___ is a  ___ y.o. woman with HTN, migraine headaches, and 
CAD with recent inferior MI s/p DES x1 to RCA in ___ 
complicated by groin site infection, patient presents for 
evaluation following leaving AMA at ___.

In terms of her history, had severe crushing pressure in chest 
and headache on ___ and went to ___, and 
then was sent home. She returned on ___ to sweats, headaches, 
and severe vomiting, and was evaluated then and found to have 
inferior MI, and received DES on ___ and discharged on ___. 

She initially thought her wound was undergoing normal 
post-procedure drainage, but on ___ she began to notice her 
wound was bloody and smelled unusual, and had her cousin who was 
a nurse check it on ___, at which time nurse thought it was 
infected and sent her to ___. 

She was having severe pain in the area of the wound ___, and 
stated it was purulent, swollen, and bloody. She believes ___ 
started antibiotics immediately on ___, and did see some 
improvement with decreased pus, pain, and swelling. Per 
collateral information from ___, the patient was managed on IV 
Vanc/CTX for Staph aureus and Proteus growing from wound 
cultures. The patient was continued on IV Vanc/CTX and full 
records from ___ was requested. 

She then underwent some sort of altercation with physician at 
___ ___ due to feelings of inadequately controlled pain and 
lack of communication, and came here. 

In the ED here, initial VS were T 97.8 HR 84 BP 127/79 RR 18 
SpO2 100% RA. ED exam notable for R groin site with purulent 
discharge. Initial labs notable for unremarkable CBC and Chem 7, 
lactate 1.0, trop 0.05, CK-MB 1. EKG demonstrated TWI in III and 
aVF. The patient was given 1000 mg Tylenol and admitted to the 
floor.  

On arrival to the floor, patient reports continued purulent 
discharge from R groin site and pain, but no other complaints. 
Currently her pain is ___, compared to ___ before. 

 
Past Medical History:
-Migraine Headaches  
-Coronary Artery Disease s/p DES to RCA  
-GERD  
-Atopic Dermatitis  
-Dysmenorrhea  
-Vitamin D Deficiency  
-Recurrent UTIs  

 
Social History:
___
Family History:
FH: Extensive CAD in both sides of family. Father had MI at 
___. 

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
Physical Exam:  
Vitals - 97.6 110/63 79 18 98% RA
GENERAL: Well-appearing in NAD  
HEENT: Sclera clear, MMM, no OP lesions  
NECK: Supple, no JVD or cervical lymphadenopathy  
CARDIAC: RRR, no m,r,g. Normal S1 and S2.  
LUNG: No wheezing, crackles, or rhonci.  
ABDOMEN: Soft, NT, ND. Normoactive bowel sounds. Large scar from 
umbilicus to pelvis in the midline  
EXTREMITIES: No ___ edema, without cyanosis or clubbing. Right 
groin with small .5 x .5 cm wound with 2 x 2 cm of tender, 
erythematous and fluctuant area underneath. 
PULSES: Full DP and TP pulses bilaterally.  
NEURO: Moving all extremities with purpose, no facial asymmetry. 
Sensation intact bilaterally in upper and lower extremities. 
Paresthesias when palpating left arm. Motor strength ___ in 
upper and lower extremities. 
SKIN: No rashes, petechiae, or ecchymoses. 

========================
DISCHARGE PHYSICAL EXAM
========================
GENERAL: Well-appearing in NAD  
HEENT: Sclera clear, MMM, no OP lesions  
NECK: Supple, no JVD or cervical lymphadenopathy  
CARDIAC: RRR, no m,r,g. Normal S1 and S2.  
LUNG: No wheezing, crackles, or rhonci.  
ABDOMEN: Soft, NT, ND. Normoactive bowel sounds. Large scar from 
umbilicus to pelvis in the midline.
EXTREMITIES: No ___ edema, without cyanosis or clubbing. Right 
groin packed and dressed with clean, dry and intact dressings. 
Nontender.
PULSES: Full DP and TP pulses bilaterally.  
SKIN: No rashes, petechiae, or ecchymoses.  
 
Pertinent Results:
=============================
ADMISSION LABS
=============================
___ 08:44PM BLOOD WBC-8.0 RBC-4.04 Hgb-12.4 Hct-37.4 MCV-93 
MCH-30.7 MCHC-33.2 RDW-11.8 RDWSD-40.3 Plt ___
___ 08:44PM BLOOD Neuts-56.4 ___ Monos-8.7 Eos-2.0 
Baso-0.5 Im ___ AbsNeut-4.50 AbsLymp-2.55 AbsMono-0.69 
AbsEos-0.16 AbsBaso-0.04
___ 08:44PM BLOOD Plt ___
___ 05:50AM BLOOD ___ PTT-34.1 ___
___ 08:44PM BLOOD Glucose-109* UreaN-11 Creat-0.9 Na-139 
K-3.7 Cl-103 HCO3-26 AnGap-14
___ 08:44PM BLOOD CK(CPK)-91
___ 08:44PM BLOOD CK-MB-1 cTropnT-0.05*
___ 08:44PM BLOOD Calcium-9.2 Phos-4.1 Mg-2.1
___ 01:49AM BLOOD Lactate-1.0

============================
IMAGING
============================
R groin ultrasound ___ impression per radiology: No fluid 
collection seen in the right groin. 

============================
MICROBIOLOGY
============================
Blood cultures x3 pending 

============================
DISCHARGE LABS
============================
___ 05:45AM BLOOD WBC-6.6 RBC-4.26 Hgb-12.9 Hct-39.1 MCV-92 
MCH-30.3 MCHC-33.0 RDW-11.8 RDWSD-39.5 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-97 UreaN-11 Creat-0.7 Na-139 
K-4.2 Cl-105 HCO3-23 AnGap-___ y.o. woman with HTN, migraine headaches, and CAD with recent 
inferior MI s/p DES x1 to RCA on ___ complicated by groin 
site infection, presenting for continued treatment of groin 
infection after leaving AMA at ___.  

# R Groin Abscess: Patient admitted in early ___ at ___ for 
post-cath groin infection. She was managed initially with IV 
Vancomycin. Vascular surgery was consulted with concern for 
infection at angioseal site. Wound culture from ___ reportedly 
grew Staph aureus and Proteus (however, final review of records 
received from them revealed Proteus and CoNS). Patient was on IV 
Vanc/CTX prior to leaving AMA with improvement. Patient left AMA 
after altercation with ___ physician. On exam, patient was with 
continued purulent discharge from R groin, without evidence of 
vascular insufficiency (normal sensation, motor strength, and 
distal pulses). Acute care surgery and vascular consulted 
regarding abscess, and abscess ultrasound showed no 
intervene-able fluid collection, but did drain what appeared to 
be lymphocele leak and packed it on ___.  While she was here, we 
initially continued IV vancomycin and ceftriaxone, however after 
receiving microbiologic data from ___ showing pan sensitive 
proteus she was given a 10 day prescription for 875mg Augmentin 
BID to be completed ___. 

# CAD s/p DES to RCA: On admission, patient without chest pain. 
EKG notable for TWI in III and aVF, in the setting of recent 
STEMI. We continued to monitor her and she remained without 
chest pain, pressure, and palpitations. We continued her 
aspirin, prasugrel, metoprolol, and atorvastatin. She denied any 
cardiac symptoms throughout her admission here.

CHRONIC ISSUES:  
# Migraine Headaches: She has a long history of migraines since 
she was a child, and we continued home Sumatriptan 25 mg PO Q4H 
PRN for headaches. 

*****TRANSITION ISSUES*****
 # CODE: Full (confirmed)  
 # CONTACT: ___ (husband) ___  
 # ___ infection, A1C
 # Follow up resolution of right groin infection
 # Follow up for completion of Augmentin 875mg BID (day 1: 
___ end: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Prasugrel 10 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
6. Docusate Sodium 100 mg PO BID 
7. Sumatriptan Succinate 25 mg PO Q4H:PRN headaches 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
4. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually q5min up to 
three times Disp #*25 Tablet Refills:*0
5. Prasugrel 10 mg PO DAILY 
RX *prasugrel [Effient] 10 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
6. Sumatriptan Succinate 25 mg PO Q4H:PRN headaches 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*24 Tablet Refills:*0
8. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: R Groin Abscess 
Secondary diagnosis: Recent Inferior MI on ___ Migraines
 
Discharge Condition:
Alert and oriented x3
Able to ambulate independently 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you while you were here at 
___. 

You were admitted for continued care of the wound in your right 
groin area. 

We obtained records from ___ where you came from, and found out 
what bacteria was growing in the wound before switching you to 
antibiotics you could take at home. 

We also did imaging studies of your wound to make sure there 
wasn't a collection of pus or fluid under the wound that the 
surgical team needed to drain. There was no collection of pus, 
so you did not need any surgery to drain the area. 

You should continue Augmentin 875mg BID from ___ to ___ for  
the full 10 day course. It is very important that you finish the 
full course of antibiotics even if you feel like the wound is 
all better before the full 10 day course is over. 

Please follow up closely within the next ___ days with your 
primary care doctor and also continue to follow closely with 
your cardiologist, given your recent heart attack.

Thank you for letting us participate in your care. 

Sincerely,

Your ___ team 
 
Followup Instructions:
___